US04447361
6-(3-Chlorophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine
A mixture of 14 g (0.0433 mole) of [2-[(3-amino-2-pyridinyl)amino]phenyl](3-chlorophenyl)-methanone and 0.3 g of para toluene sulfonic acid in 500 ml of toluene were heated at reflux overnight using a Dean-Stark trap to collect water. At the end of the reflux time, some of the toluene (ca 250 ml) was distilled off and the hot solution was filtered. Pet. ether (30°-60° C.) was added to the cloud point. The solution was refrigerated overnight and filtered to give, after air drying, 10 g (76%) gold colored crystals. A portion was recrystallized from isopropyl alcohol-isopropyl ether, m.p. 160°-160.5° C.

reactant | [2-[(3-amino-2-pyridinyl)amino]phenyl](3-chlorophenyl)-methanone | 0.0433 mole, 14 g | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC(=CC=C1)Cl | C18H14ClN3O
reactant | para toluene sulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3-Chlorophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine | ClC=1C=C(C=CC1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C18H12ClN3
